US03956334
23 g. of 1,5-dibromopentane, 25.7 g. of 2-methyl-2-[4-(4-aminophenyl)-phenoxy]-propanol (obtainable by reaction of 4-hydroxy-4'-nitro-diphenyl with 2-bromo-2-methylpropanol to 2-methyl-2-[4-(4-nitrophenyl)-phenoxy]-propanol and reduction), and 27 g. of potassium carbonate are refluxed in 400 ml. of n-butanol for 12 hours. 2-Methyl-2-[4-(p-5-bromopentylaminophenyl)-phenoxy]-propanol is formed as the intermediate, which is not isolated. Then, the solvent is distilled off, the residue mixed with water and extracted with ethyl acetate. After drying and evaporation, 2-methyl-2-[4-(4-piperidinophenyl)-phenoxy]-propanol is obtained, m.p. 158°-160°.

reactant | 1,5-dibromopentane | BrCCCCCBr | C5H10Br2
reactant | 2-methyl-2-[4-(4-aminophenyl)-phenoxy]-propanol | CC(CO)(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)N | C16H19NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | n-butanol | C(CCC)O | C4H10O
product | 2-Methyl-2-[4-(p-5-bromopentylaminophenyl)-phenoxy]-propanol | CC(CO)(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)NCCCCCBr | C21H28BrNO2
